US06828460B2
(±)-Methyl {4-[2,4-bis(methoxymethoxy)phenyl]cyclohexylidene}acetate
A round bottomed flask equipped with magnetic stirrer was loaded with sodium hydride (0.20 g, 5.10 mmol, 60% dispersion in mineral oil) which was washed with petroleum ether (4×20 ml). The excess petroleum ether was removed under reduced pressure. Anhydrous tetrahydrofuran (120 ml) was added and the stirred solution was cooled to 0° C. Trimethylphosphonoacetate (756 μl, 5.10 mmol) was added dropwise via syringe and the stirred mixture was allowed to warm to room temperature over 1 hr. The mixture was cooled to 0° C. prior to the addition of 4-[2,4-bis(methoxymethoxy)phenyl] cyclohexanone (1.00 g, 3.40 mmol) as a solution in tetrahydrofuran (30 ml). The pale yellow mixture was heated to reflux temperature for 0.75 hr, then cooled to room temperature and partitioned between ethyl acetate (100 ml) and saturated aqueous ammonium chloride solution (30 ml). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×30 ml). The combined organic layers were washed with brine (30 ml), dried over magnesium sulfate, filtered and concentrated in vacuo, affording a yellow oil. Purification via flash column chromatography (SiO2, ethyl acetate/petroleum ether, 1:2, v/v) furnished the title compound as a yellow oil (1.13 g, 95%). δH(CD3OD) 1.53-1.70 (2H, m), 2.00-2.13 (4H, m), 2.45 (2H, m), 3.26 (1H, m), 3.48 (3H, s), 3.53 (3H, s), 3.71 (3H, s), 5.17 (2H, s), 5.24 (2H, s), 5.73 (1H, s), 6.67 and 6.68 (1H, d), 6.83 (1H, d), 7.08 (1H, d).

reactant | sodium hydride | 5.10 mmol, 0.20 g | [H-].[Na+]
reactant | Trimethylphosphonoacetate | 5.10 mmol, 756 μl | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | 4-[2,4-bis(methoxymethoxy)phenyl] cyclohexanone | 3.40 mmol, 1.00 g | COCOC1=C(C=CC(=C1)OCOC)C1CCC(CC1)=O | C16H22O5
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (±)-Methyl {4-[2,4-bis(methoxymethoxy)phenyl]cyclohexylidene}acetate | 1.13 g, 95% | COCOC1=C(C=CC(=C1)OCOC)C1CCC(CC1)=CC(=O)OC | C19H26O6
